US07276608B2
3A. 3-Amino-6-bromo-2-oxo-1,2,3,4-tetrahydroquinoline
The title compound was prepared from 3-amino-1-hydroxy-2-oxo-1,2,3,4-tetrahydroquinoline hydrochloride (Davis, A. L., et al., J. Med. Chem., 7, 632 (1964)) according to procedures similar to those described in McCord, T. J., et al., J. Het. Chem., 9, 119 (1972), as follows. To 48% aqueous HBr solution (70 mL) was added 3-amino-1-hydroxy-2-oxo-1,2,3,4-tetrahydroquinoline hydrochloride (2.0 g, 9.3 mmol). The resulting mixture was stirred at reflux for 2 h. HPLC/MS indicated a nearly 1:1 mixture of desired product and its 8-bromo isomer plus a small amount of dibromo product. After cooling to RT, precipitate was filtered and treated with excess saturated aqueous Na2CO3 solution to make a basic (pH=10) mixture. This heterogenous mixture was extracted repeatedly with CH2Cl2. During these extractions, a substantial amount of solid remained undissolved and suspended in the aqueous layer. The combined organic extracts were dried over Na2SO4 and evaporated under vacuum. The resulting residue was chromatographed on silica gel eluted with 10% MeOH in CH2Cl2 to obtain the title compound (0.15 g). Additional title compound (0.56 g) was obtained by filtering the heterogenous aqueous layer and washing the filtered solid with water, then Et2O, and then 10% MeOH in Et2O before drying under vacuum.

reactant | 3-amino-1-hydroxy-2-oxo-1,2,3,4-tetrahydroquinoline hydrochloride | Cl.NC1C(N(C2=CC=CC=C2C1)O)=O
reactant | 3-amino-1-hydroxy-2-oxo-1,2,3,4-tetrahydroquinoline hydrochloride | 9.3 mmol, 2.0 g | Cl.NC1C(N(C2=CC=CC=C2C1)O)=O
reactant | HBr | 70 mL | Br | BrH
product | 3-Amino-6-bromo-2-oxo-1,2,3,4-tetrahydroquinoline | 0.15 g | NC1C(NC2=CC=C(C=C2C1)Br)=O | C9H9BrN2O
